plaintext
* SPICE Netlist for the given schematic

V1 VCC 0 DC VCC

I1 Vout VCC DC I1

* PMOS Transistor Q1
M1 Vout Vb1 VCC VCC PMOS_MODEL

* NMOS Transistor Q2
M2 2 Vin 0 0 NMOS_MODEL

* NMOS Transistor Q3
M3 VCC Vb3 2 0 NMOS_MODEL

* Models for transistors
.model PMOS_MODEL PMOS
.model NMOS_MODEL NMOS

.end