spice
* SPICE Netlist for the circuit

IREF N001 VCC DC 1mA

QREF N002 N003 0 QNPN
Q1   ICOPY N003 0 QNPN

.model QNPN NPN(is=1e-15 bf=100)

VCC VCC 0 DC 10V