spice
* SPICE Netlist
IREF 4 0 DC 1mA
VCC 4 0 DC 5V

M1 2 5 5 5 NMOS L=1u W=2u
M2 2 4 6 6 NMOS L=1u W=2u

* Note: NMOS is defined as: Mname D G S B model L=value W=value