* SPICE Netlist
* NMOS and PMOS transistors assumed
* Assume default model parameters

IREF 1 3 DC 1
RP 3 0 1k ; Example resistance value, modify as needed
MREF 3 3 0 0 NMOS
M1 2 2 0 0 NMOS
VDD 1 0 DC VDD

.END