* Differential Pair SPICE Netlist

* Transistors
Q1 2 5 3 NPN
Q2 2 3 3 NPN

* Resistors
R1 2 4 1k
R2 2 4 1k

* Input Voltage Source
Vs 6 3 AC 1

* Vcc
Vcc 4 0 DC 15

* Current Source
I1 3 0 DC 1mA

* End of Netlist