spice
* Differential Amplifier Circuit
VCC 33 0 DC 5V

* Resistors
RC1 3 33 1k
RC2 1 33 1k

* Current source
I_EE 3 0 DC 1mA

* Transistors
Q1 3 2 3 NPN
Q2 1 2 3 NPN

* Inputs
Vin1 2 0 DC 0V
Vin2 2 0 DC 0V

.END