* Differential Amplifier Circuit

   .MODEL NPN NPN(IS=1E-14 BF=100)
   Q1 5 8 4 NPN
   Q2 5 3 4 NPN

   RC1 2 4 1k
   RC2 2 4 1k

   VX 8 7 DC 0
   IEE 4 0 DC 1mA

   .END