* Transistors
M1 2 4 5 5 NMOS
M2 2 1 2 2 PMOS
M3 3 2 3 3 PMOS
M4 3 3 3 3 PMOS

* Voltage Source
Vin1 1 0 DC <VIN_VALUE>  ; Replace <VIN_VALUE> with the desired voltage value

* End of Netlist