plaintext
* Differential Amplifier Circuit

V_CM 8 4 DC <value_of_VCM>
I_EE 3 4 DC <value_of_IEE>

RC1 1 2 <value_of_RC>
RC2 2 2 <value_of_RC>
REE 3 3 <value_of_REE>

* NPN Transistors
Q1 1 6 3 NPN
Q2 2 5 3 NPN

* Models
.model NPN NPN (IS=<value>, BF=<value>, ...)