spice
* Differential Amplifier
Q1 6 3 3 QNPN
Q2 6 7 3 QNPN
Q3 6 3 6 QPNP
Q4 5 6 6 QPNP
VCC 6 0 DC VCC
IEE 3 3 DC IEE
RL 5 2 RL
.model QNPN NPN (IS=1E-15 BF=100)
.model QPNP PNP (IS=1E-15 BF=100)