spice
* SPICE Netlist
M4 2 2 8 8 PMOS
M5 2 2 3 3 NMOS 
M6 6 2 2 2 NMOS 
M2 4 4 7 7 NMOS 
M3 2 4 3 3 NMOS 
I_IN 4 0 DC 
I_OUT 2 3 DC 
I_BIAS 2 6 DC 
R 4 3
Q1 4 4 7
VDD 8 0 DC
.END