* NMOS (drain, gate, source, body)
M1 3 Vin1 0 0 NMOS
M2 3 Vin2 0 0 NMOS

* PMOS (drain, gate, source, body)
M3 3 Vb1 5 5 PMOS
M4 5 2 1 1 PMOS

* NMOS (connected to ground)
M5 0 Vb2 0 0 NMOS

* Voltage Definitions
VDD 1 0 DC VDD_value
Vin1 Vin1 0 DC Vin1_value
Vin2 Vin2 0 DC Vin2_value
Vb1 Vb1 0 DC Vb1_value
Vb2 Vb2 0 DC Vb2_value

* Models
.model NMOS NMOS
.model PMOS PMOS