plaintext
* SPICE Netlist

VCC VCC 0 DC 2.5

* Resistors
RB1 7 3 100k
RC 6 52 1k
RB2 52 2 50k
RE 2 0 1k
Rn2 3 3 1k

* Capacitors
C1 VIN 3 200n
C2 3 2 200n

* NPN Transistors
Q1 3 4 0 NPN
Q2 52 2 0 NPN

* Voltage Source
VIN VIN 0 AC 1

.END