plaintext
* BJT Amplifier Circuit
VCC 1 0 DC 15V
Vb 2 0 DC 5V
RC 1 2 1k
C1 2 0 10u
Cin 3 0 1u
Q1 2 3 0 QNPN

.model QNPN NPN (IS=1E-15 BF=100 VAF=100)