spice
* SPICE Netlist for the schematic

VDD 1 0 DC 5V * Voltage source
RE 1 2 1k     * Resistor RE connected to net 1 and M2 drain
RS 3 0 1k     * Resistor RS connected from net 3 to ground

* Transistors
M1 2 3 3 NMOS L=1u W=1u  * NMOS M1
M2 1 2 2 PMOS L=1u W=1u  * PMOS M2

* Voltage Inputs
Vin 3 0 DC 1V * Voltage source for Vin
Vb1 2 0 DC 1V * Voltage source for Vb1

* Output
Vout 2        * Output node

.end