* Nodes are labeled in the second image and used to identify connections

VDD 3 0 DC 5V
I1 3 2 DC 1mA

* M1 is an NMOS: drain connected to net 2, gate to Vb, source to net (Vin and Rs)
M1 2 Vb Vin 0 NMOS

* M2 is a PMOS: drain connected to Vout and net 2, gate to net 2, source to ground
M2 Vout 2 0 0 PMOS

* Resistor Rs connected between Vin and net linked to M1
Rs Vin Vin_net 10k

* Define nodes
Vin_net 2 0
Vb 2 0 DC 1.5V

* Analysis
.tran 1n 100n
.end