* SPICE Netlist for the schematic
Q1 3 2 0 NPN
RB 2 1 1k ; Assumed resistance value
VCC 4 0 DC 10V ; Assumed voltage value
I1 3 0 DC 1mA ; Assumed current value

* Input connections
Vin 1 0 DC 0V ; Input voltage source

* Output
* Wire connecting node 3 to Zout not explicitly needed as it's a direct connection