spice
* NMOS Transistors
M1 3 3 2 2 NMOS W=1u L=1u
M2 4 4 2 2 NMOS W=2u L=1u

* PMOS Transistors
M3 5 3 6 6 PMOS W=1u L=1u
M4 7 4 6 6 PMOS W=1u L=1u

* Current Source
I1 4 6 DC Ibias

* Resistor
R1 4 2 R

* Voltage Source
VDD 6 0 DC VDD

* Models Declaration
.model NMOS NMOS (LEVEL=1)
.model PMOS PMOS (LEVEL=1)