* Amplifier Circuit Netlist

VCC 3 0 DC 15V
Iin 1 0 DC 1mA

RC 2 3 1k
RF 2 5 10k
RM 4 3 500

Q1 5 1 2 NMOS
Q2 4 2 0 PMOS

Vout 4 0 

.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)

.end