spice
* SPICE Netlist for Given Schematic

* Voltage Source
Vi 2 0 DC <input_voltage>   ; Define input voltage value

* Current Source
IR 2 7 DC <current_value>    ; Define current value for IR

* Transistors
M1 2 3 2 2 PMOS              ; PMOS (Drain, Gate, Source, Body)
M2 4 5 3 3 NMOS              ; NMOS (Drain, Gate, Source, Body)
M3 3 3 7 7 NMOS              ; NMOS (Drain, Gate, Source, Body)

* Load Resistor
RL 4 6 <resistor_value>      ; Define resistor value for RL

* Analysis
.tran 1n 10u                ; Define transient analysis parameters

* End of Netlist
.end