plaintext
   * Netlist for the given circuit

   .model NMOS NMOS (LEVEL=1)

   * Voltage Source
   VDD VDD 0 DC 5V

   * Components
   RG Vin net1 1k
   CF net2 Vout 10pF
   M1 Vout Vin 0 0 NMOS
   I1 VDD net2 DC 1mA

   .end