* Circuit Netlist
V1 3 4 DC 0 ; Voltage source Vin
R1 5 4 Z2   ; Impedance Z2
R2 6 7 Rp   ; Resistor Rp
L1 6 2 L1   ; Inductor L1
C1 3 4 C1   ; Capacitor C1

* Connectors
Iin 5 3 DC 0 ; Current through Iin is not defined yet

.END