* Components
C1 5 8 <cap_value>
C1 2 9 <cap_value>

L1 6 10 <ind_value>
L1 4 3 <ind_value>

Rp 5 6 <res_value>
Rp 2 4 <res_value>

* Transistors
M1 2 7 0 0 NMOS
M2 2 4 0 0 NMOS

* Supply Voltage
VDD 3 0 DC <VDD_value>

* End of netlist