spice
* SPICE netlist for the circuit

VDD 3 0 DC 10V

C1_left 8 7 10n
C1_right 2 3 10n

L1_left 6 5 1u
L1_right 3 2 1u

Rp_left 8 5 1k
Rp_right 3 2 1k

M1 X Y 4 4 NMOS
M2 Y X 4 4 NMOS

Iss 4 0 DC 1mA

* Model parameters for NMOS
.model NMOS NMOS (LEVEL=1 VTO=1 KP=120u)

.end